US06566535B1
Ethyl 4-(2-formylphenylthio)butyrate (537 mg) was dissolved in 11 ml of diethyl carbonate and a 20% sodium ethoxide solution (1 ml) in ethanol was dropped at room temperature. Stirring was conducted at room temperature for 2 hours. During cooling in ice, 4 ml of a 1N hydrochloric acid was added. Extraction with 10 ml of ethyl acetate was conducted. The organic layer was washed with 20 ml of water three times. After drying with anhydrous sodium sulfate, the mixture was concentrated. The concentrated matter was purified by silica gel chromatography (toluene). The resulting effective fractions were concentrated to yield ethyl 2,3-dihydro-1-benzothiepine-4-carboxylate (352 mg, Yield 71%).

reactant | Ethyl 4-(2-formylphenylthio)butyrate | 537 mg | C(=O)C1=C(C=CC=C1)SCCCC(=O)OCC | C13H16O3S
reactant | sodium ethoxide | 1 ml | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl carbonate | 11 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2,3-dihydro-1-benzothiepine-4-carboxylate | 352 mg, Yield 71% | S1CCC(=CC2=C1C=CC=C2)C(=O)OCC | C13H14O2S
